US08048909B2
Ethyl 4-fluoro-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate
To a solution (10 mL) of ethyl 4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate (100 mg) in tetrahydrofuran was added sodium hydride (60% in oil, 52 mg) at room temperature and the mixture was stirred for 30 min. 15-Crown-5 (284 mg) was added dropwise and the mixture was stirred for 30 min. Benzenesulfonyl chloride (151 mg) was added, and the mixture was further stirred for 1 hr. Saturated brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1) to give the title compound as a colorless oil (yield 60 mg, 38%).

reactant | ethyl 4-fluoro-5-phenyl-1H-pyrrole-3-carboxylate | 10 mL, 100 mg | FC=1C(=CNC1C1=CC=CC=C1)C(=O)OCC | C13H12FNO2
reactant | sodium hydride | 52 mg | [H-].[Na+]
reactant | 15-Crown-5 | 284 mg | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | Benzenesulfonyl chloride | 151 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | Ethyl 4-fluoro-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | yield 60 mg, 38% | FC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C19H16FNO4S
